US04137313
3.0 gm (9.7 millimols) of methyl 2,5-dihydro-4-hydroxy-5-methyl-1,2-thiazino-[5,6-b]indole-3-carboxylate-1,1-dioxide, 1.0 gm-(10 millimols) of 2-amino-thiazole and 150 ml of xylene were refluxed for 3.5 hours in a Soxhlett-apparatus filled with a 4-A-molecular sieve. The reaction mixture then was filtered and yielded 2.2 gm (63% of theory) of crystalline 2,5-dihydro-4-hydroxy-5-methyl-N-(2-thiazolyl)-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide; M.p.: 260° C. (decomposition).

reactant | methyl 2,5-dihydro-4-hydroxy-5-methyl-1,2-thiazino-[5,6-b]indole-3-carboxylate-1,1-dioxide | 9.7 millimols, 3.0 gm | OC1=C(NS(C2=C1N(C=1C=CC=CC21)C)(=O)=O)C(=O)OC | C13H12N2O5S
reactant | 2-amino-thiazole | 10 millimols | NC=1SC=CN1 | C3H4N2S
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,5-dihydro-4-hydroxy-5-methyl-N-(2-thiazolyl)-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide | 2.2 gm, 63% | OC1=C(NS(C2=C1N(C=1C=CC=CC21)C)(=O)=O)C(=O)NC=2SC=CN2 | C15H12N4O4S2
